// Generated for: spectre
// Generated on: May 21 23:19:01 2015
// Design library name: 20nm
// Design cell name: Dual_Supply_Word_Test
// Design view name: schematic
simulator lang=spectre
global 0 vdd! vcc!
parameters nfin=28 VDDH=.600 VDDL=.450 period=6n C=26.374f pulseWidth=3n \
    startDelay=3n timeStop=18n
include "/software/cadence/ncsu-FreePDK15/hspice_20nm_hp.include"

// Library name: 20nm
// Cell name: inv_4x_PWR
// View name: schematic
subckt inv_4x_PWR A GND VDD Y
    M0 (Y A GND GND) nfet w=240n l=24n nfin=4 nf=1 m=1
    M1 (Y A VDD VDD) pfet w=400n l=24n nfin=4 nf=1 m=1
ends inv_4x_PWR
// End of subcircuit definition.

// Library name: 20nm
// Cell name: 6T_PWR
// View name: schematic
subckt _sub0 A B0 B1 VDD GND
    M5 (Q0 Q1 GND GND) nfet w=60n l=24n nfin=1 nf=1 m=1
    M4 (Q1 Q0 GND GND) nfet w=60n l=24n nfin=1 nf=1 m=1
    M1 (Q1 A B1 GND) nfet w=120n l=24n nfin=2 nf=1 m=1
    M0 (Q0 A B0 GND) nfet w=120n l=24n nfin=2 nf=1 m=1
    M3 (Q0 Q1 VDD VDD) pfet w=100n l=24n nfin=1 nf=1 m=1
    M2 (Q1 Q0 VDD VDD) pfet w=100n l=24n nfin=1 nf=1 m=1
ends _sub0
// End of subcircuit definition.

// Library name: 20nm
// Cell name: 6T_4x_PWR
// View name: schematic
subckt _sub1 A\<3\> A\<2\> A\<1\> A\<0\> B0 B1 GND VDD
    I3 (A\<0\> B0 B1 VDD GND) _sub0
    I2 (A\<1\> B0 B1 VDD GND) _sub0
    I1 (A\<2\> B0 B1 VDD GND) _sub0
    I0 (A\<3\> B0 B1 VDD GND) _sub0
ends _sub1
// End of subcircuit definition.

// Library name: 20nm
// Cell name: 6T_32x_PWR
// View name: schematic
subckt _sub2 A\<31\> A\<30\> A\<29\> A\<28\> A\<27\> A\<26\> A\<25\> \
        A\<24\> A\<23\> A\<22\> A\<21\> A\<20\> A\<19\> A\<18\> A\<17\> \
        A\<16\> A\<15\> A\<14\> A\<13\> A\<12\> A\<11\> A\<10\> A\<9\> \
        A\<8\> A\<7\> A\<6\> A\<5\> A\<4\> A\<3\> A\<2\> A\<1\> A\<0\> B0 \
        B1 GND VDD\<1\> VDD\<0\>
    I7 (A\<3\> A\<2\> A\<1\> A\<0\> B0 B1 GND VDD\<0\>) _sub1
    I6 (A\<7\> A\<6\> A\<5\> A\<4\> B0 B1 GND VDD\<0\>) _sub1
    I5 (A\<11\> A\<10\> A\<9\> A\<8\> B0 B1 GND VDD\<0\>) _sub1
    I4 (A\<15\> A\<14\> A\<13\> A\<12\> B0 B1 GND VDD\<0\>) _sub1
    I3 (A\<19\> A\<18\> A\<17\> A\<16\> B0 B1 GND VDD\<1\>) _sub1
    I2 (A\<23\> A\<22\> A\<21\> A\<20\> B0 B1 GND VDD\<1\>) _sub1
    I1 (A\<27\> A\<26\> A\<25\> A\<24\> B0 B1 GND VDD\<1\>) _sub1
    I0 (A\<31\> A\<30\> A\<29\> A\<28\> B0 B1 GND VDD\<1\>) _sub1
ends _sub2
// End of subcircuit definition.

// Library name: 20nm
// Cell name: inv_1x_PWR
// View name: schematic
subckt inv_1x_PWR A GND VDD Y
    M0 (Y A GND GND) nfet w=240n l=24n nfin=1 nf=1 m=1
    M1 (Y A VDD VDD) pfet w=400n l=24n nfin=1 nf=1 m=1
ends inv_1x_PWR
// End of subcircuit definition.

// Library name: 20nm
// Cell name: Dual_Supply_Word_Test
// View name: schematic
I2 (net035 0 vdd! VH) inv_4x_PWR
I10 (sH 0 vdd! VL) inv_4x_PWR
V2 (vcc! 0) vsource type=dc dc=VDDL
V1 (vdd! 0) vsource type=dc dc=VDDH
I34 (net029\<0\> net029\<1\> net029\<2\> net029\<3\> net029\<4\> \
        net029\<5\> net029\<6\> net029\<7\> net029\<8\> net029\<9\> \
        net029\<10\> net029\<11\> net029\<12\> net029\<13\> net029\<14\> \
        net029\<15\> net029\<16\> net029\<17\> net029\<18\> net029\<19\> \
        net029\<20\> net029\<21\> net029\<22\> net029\<23\> net029\<24\> \
        net029\<25\> net029\<26\> net029\<27\> net029\<28\> net029\<29\> \
        net029\<30\> net029\<31\> vcc! vcc! 0 VDD\<1\> VDD\<0\>) _sub2
I33 (net029\<0\> net029\<1\> net029\<2\> net029\<3\> net029\<4\> \
        net029\<5\> net029\<6\> net029\<7\> net029\<8\> net029\<9\> \
        net029\<10\> net029\<11\> net029\<12\> net029\<13\> net029\<14\> \
        net029\<15\> net029\<16\> net029\<17\> net029\<18\> net029\<19\> \
        net029\<20\> net029\<21\> net029\<22\> net029\<23\> net029\<24\> \
        net029\<25\> net029\<26\> net029\<27\> net029\<28\> net029\<29\> \
        net029\<30\> net029\<31\> vcc! vcc! 0 VDD\<1\> VDD\<0\>) _sub2
M0 (net017 VH vdd! vdd!) pfet w=800n l=24n nfin=nfin nf=1 m=1
M1 (net024 VL vcc! vcc!) pfet w=800n l=24n nfin=nfin nf=1 m=1
ISplit\<1\> (net031 VDD\<1\>) iprobe
ISplit\<0\> (net031 VDD\<0\>) iprobe
ILine (Vline net031) iprobe
IVDDL (net024 Vline) iprobe
IVDDH (net017 Vline) iprobe
C0 (Vline 0) capacitor c=C m=1
V0 (sH 0) vsource type=pulse dc=0 val0=VDDH val1=0 period=period \
        delay=startDelay rise=8p fall=8p width=pulseWidth
I1 (sH 0 vdd! net035) inv_1x_PWR
ic I33.I7.I3.Q1=VDDL I33.I7.I3.Q0=0 VL=0 VH=VDDH sH=VDDH net035=0 
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 multithread=on scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=timeStop errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save Vline VL VH IVDDL:1 IVDDH:1 ILine:1 
saveOptions options save=allpub
